US08980911B2
To a stirred solution of benzyl 4-[(methoxycarbonyl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (264 mg, 0.82 mmol, Step a) in ethanol (10 mL) was added catalytic amount of palladium on carbon (10% wet). The reaction mixture was stirred under an atmosphere of hydrogen gas (atmospheric pressure) for 1 hour. The reaction mixture was filtered over celite and the residue washed with ethanol. The filtrate was concentrated to yield methyl 1H-pyrrolo[3,2-c]pyridin-4-ylcarbamate as a white powder (141 mg, 90.75%).

reactant | benzyl 4-[(methoxycarbonyl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | COC(=O)NC1=NC=CC2=C1C=CN2C(=O)OCC2=CC=CC=C2 | C17H15N3O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | methyl 1H-pyrrolo[3,2-c]pyridin-4-ylcarbamate | 141 mg, 90.75% | N1C=CC=2C(=NC=CC21)NC(OC)=O | C9H9N3O2
